US07226938B2
Piperazin-1-yl-(4H-thieno[3,2-b]pyrrol-5-yl)-methanone
4H-Thieno[3,2-b]pyrrole-5-carboxylic acid (50 mg, 0.30 mmol) was coupled with piperazine according to Procedure D to provide the title compound (25 mg, 35%) as an off-white solid. TLC (silica, 10% MeOH/CH2Cl2): Rf=0.15. MS (electrospray): exact mass calculated for C11H13N3OS, 235.08; m/z found, 236.1 [M+H]+. 1H NMR (CD3OD, 400 MHz): 7.33 (d, J=5.3 Hz, 1H), 6.98 (dd, J=5.2, 0.7 Hz, 1H), 6.89 (d, J=0.6 Hz, 1H), 4.08 (t, J=5.3 Hz, 4H), 3.50-3.20 (m, 4H).

reactant | 4H-Thieno[3,2-b]pyrrole-5-carboxylic acid | 0.30 mmol, 50 mg | S1C=CC=2NC(=CC21)C(=O)O | C7H5NO2S
reactant | piperazine | N1CCNCC1 | C4H10N2
product | Piperazin-1-yl-(4H-thieno[3,2-b]pyrrol-5-yl)-methanone | 25 mg, 35% | N1(CCNCC1)C(=O)C1=CC2=C(N1)C=CS2 | C11H13N3OS
